data/oMe_Silver.jsonl
{"reaction_id": "NR-114_1-CC","level": "medium","name": "Hunsdiecker Reaction","reactants_smiles": ["[Ag+].O=C([O-])(CC)","BrBr"],"products_smiles": ["[Br](CC)"],"conditions": "hν or Heat","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(OBr)(CC)","step_weight": 0,"rationale": "Silver carboxylate acts as a nucleophile toward bromine, forming the acyl hypobromite due to the high electrophilicity of bromine and the good leaving ability of AgBr."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "O=C([O])(CC)","step_weight": 0,"rationale": "Heat or light induces homolytic cleavage of the weak O–Br bond in the hypobromite, generating an acyloxy radical and bromine radical."},{"step": 3,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CC)","step_weight": 0,"rationale": "The acyloxy radical rapidly decarboxylates, driven by CO₂ release and formation of a more stable alkyl radical."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "[Br](CC)","step_weight": 0,"rationale": "The alkyl radical reacts with bromine radical to form the alkyl bromide, favored by the strong C–Br bond formation and radical recombination kinetics."}],"description": "In the Hunsdiecker reaction, a silver carboxylate reacts with bromine under heat or light to form an alkyl bromide via radical decarboxylation. The process involves initial formation of an acyl hypobromite, homolytic cleavage to generate radicals, CO₂ loss, and radical recombination with bromine."}
{"reaction_id": "NR-325_1-c1cnccc1_2-C1COC(C)C1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(c1cnccc1)C1COC(C)C1","NN","[OH-]"],"products_smiles": ["C(c1cnccc1)C1COC(C)C1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1cnccc1)C1COC(C)C1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(c1cnccc1)C1COC(C)C1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(c1cnccc1)C1COC(C)C1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](c1cnccc1)C1COC(C)C1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)C1COC(C)C1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
